US07199105B2
To a −78° C. solution of 4-picoline (1.1 g, 11.8 mmol) in THF (5 mL) was added a solution of LDA 2M in THF/heptane/ethylbenzene (Aldrich) (5.9 mL, 11.8 mmol). The resulting reaction mixture was stirred at −78° C. for 3 h then −40° C. for 1 h. Cyclopropyl bromide (1.43 g, 11.8 mmol) was added at −78° C., the reaction mixture was allowed to warm up to room temperature and was stirred at room temperature for 1 h. To the reaction mixture was added saturated aqueous NH4Cl (10 mL), the aqueous phase was extracted with EtOAc (10×2 mL), and the combined organic extracts dried over Na2SO4. 4-Cyclopropylmethylpyridine-2-carboxylic acid (0.5 g, 31%) was obtained after the solvent was removed and used without further purification.

reactant | 4-picoline | 11.8 mmol, 1.1 g | N1=CC=C(C=C1)C | C6H7N
reactant | LDA | 2M | [Li+].CC(C)[N-]C(C)C
reactant | THF heptane ethylbenzene | 11.8 mmol, 5.9 mL | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | Cyclopropyl bromide | 11.8 mmol, 1.43 g | C1(CC1)Br | C3H5Br
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Cyclopropylmethylpyridine-2-carboxylic acid | 0.5 g, 31% | C1(CC1)CC1=CC(=NC=C1)C(=O)O | C10H11NO2
